US07115611B2
A] 2-{4-[4-Methoxymethyl-6-methyl-2-(3-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester
In analogy to the procedure described in example 113A], 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (described in WO 02/092590) was reacted with 5-chloromethyl-4-methoxymethyl-6-methyl-2-(3-trifluoromethyl-phenyl)-pyrimidine (example 148D]) to give the title compound as light yellow viscous oil.

reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | 5-chloromethyl-4-methoxymethyl-6-methyl-2-(3-trifluoromethyl-phenyl)-pyrimidine | ClCC=1C(=NC(=NC1C)C1=CC(=CC=C1)C(F)(F)F)COC | C15H14ClF3N2O
product | 2-{4-[4-Methoxymethyl-6-methyl-2-(3-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC=1C(=NC(=NC1C)C1=CC(=CC=C1)C(F)(F)F)COC)C)=O | C28H31F3N2O5
